US05891901
A solution of methyl-2-azido-3-(4-methylthiophenyl)-propenoate (20.6 g, 83 mmol) in xylene (200 ml) was added dropwise to boiling xylene (250 ml) over a period of 2 hours. The reaction mixture was allowed to heat at reflux temperature for an additional 2 hours, then cooled slowly and placed in a freezer overnight. The solids were filtered, washed with a small amount of CH2Cl2 /hexane (1:3) and dried to give 11.2 g (61.0%) of methyl-6-methylsulfanyl-1H-indole-2-carboxylate.

reactant | methyl-2-azido-3-(4-methylthiophenyl)-propenoate | 83 mmol, 20.6 g | COC(C(=CC1=CC=C(C=C1)SC)N=[N+]=[N-])=O | C11H11N3O2S
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl-6-methylsulfanyl-1H-indole-2-carboxylate | 11.2 g, 61.0% | COC(=O)C=1NC2=CC(=CC=C2C1)SC | C11H11NO2S
